US07265120B2
A mixture of 6-(5-amino-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone (50 mg), N-chlorosuccinimide (23.9 mg) in DMF (1.5 ml) was stirred at 60° C. for 2 hours. Water and EtOAc were added to the reaction mixture. The organic layer was separated, and dried over Na2SO4. The solvent was removed in vacuo. The residue was purified by silica gel column chromatography eluted with a mixture of CHCl3 and MeOH. The fractions were concentrated in vacuo to obtain 6-(5-amino-6-chloro-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone (30 mg) as white powder.

reactant | 6-(5-amino-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone | 50 mg | NC=1N=C(C(=NC1)C=1C=CC(N(N1)C(C)C)=O)C1=CC=CC=C1 | C17H17N5O
reactant | N-chlorosuccinimide | 23.9 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | Water | O | H2O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 6-(5-amino-6-chloro-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone | 30 mg | NC=1N=C(C(=NC1Cl)C=1C=CC(N(N1)C(C)C)=O)C1=CC=CC=C1 | C17H16ClN5O
